US07595327B2
According to the procedure of Example 53, Step 1, using (R)-N-benzyl-N-α-methylbenzylamine (4.2 mL, 4.24 g, 20 mmol), n-butyllithium (2.4 M, 7.4 mL), methyl 1-cyclopentene-1-carboxylate (1.3 mL, 1.29 g, 10.2 mmol), and iodoethane (1.6 mL, 3.12 g, 20 mmol), methyl (1S,2R)-2-amino-1-ethylcyclopentanecarboxylate was obtained as a mixture of two components (1.103 g) after purification on silica gel, eluting with 2% ethyl acetate/hexanes.

reactant | (R)-N-benzyl-N-α-methylbenzylamine | 20 mmol, 4.2 mL, 4.24 g | C(C1=CC=CC=C1)N[C@@H](C1=CC=CC=C1)C | C15H17N
reactant | n-butyllithium | 2.4 M, 7.4 mL | C(CCC)[Li]
reactant | methyl 1-cyclopentene-1-carboxylate | 10.2 mmol, 1.3 mL, 1.29 g | C1(=CCCC1)C(=O)OC | C7H10O2
reactant | iodoethane | 20 mmol, 1.6 mL, 3.12 g | ICC | C2H5I
product | methyl (1S,2R)-2-amino-1-ethylcyclopentanecarboxylate | N[C@H]1[C@](CCC1)(C(=O)OC)CC | C9H17NO2
